US07875639B2
3-[2-(2,3-Dihydro-benzo[1,4]dioxin-5-yloxy)-ethyl]-4,5-dimethyl-3H-thiazol-2-ylideneamine hydrobromide
A mixture of 5-(2-bromoethoxy)-2,3-dihydro-benzo[1,4]dioxine (1.2 g, 4.7 mmol) and 4,5-dimethyl-thiazol-2-ylamine (0.50 g, 3.9 mmol) was heated at 85° C. for 7 hours. The mixture was cooled to ambient temperature and the residue was recrystallized from ethanol to provide 0.18 g (13%) of the title compound.

reactant | 5-(2-bromoethoxy)-2,3-dihydro-benzo[1,4]dioxine | 4.7 mmol, 1.2 g | BrCCOC1=CC=CC=2OCCOC21 | C10H11BrO3
reactant | 4,5-dimethyl-thiazol-2-ylamine | 3.9 mmol, 0.50 g | CC=1N=C(SC1C)N | C5H8N2S
product | 3-[2-(2,3-Dihydro-benzo[1,4]dioxin-5-yloxy)-ethyl]-4,5-dimethyl-3H-thiazol-2-ylideneamine hydrobromide | 0.18 g, 13% | Br.O1CCOC2=C1C=CC=C2OCCN2C(SC(=C2C)C)=N | InChI=1S/C15H18N2O3S.BrH/c1-10-11(2)21-15(16)17(10)6-7-18-12-4-3-5-13-14(12)20-9-8-19-13;/h3-5,16H,6-9H2,1-2H3;1H
